US07842701B2
3-amino-2-(3-hydroxyphenyl)-7-[3-(4-methyl-1-piperazinyl)propoxy]-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-2-(2-chloro-5-methoxyphenyl)-7-hydroxy-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (75 mg), 1-(3-chloropropyl)-4-methylpiperazine dihydrochloride (70 mg), potassium carbonate (112 mg), potassium iodide (5 mg) and N,N-dimethylformamide (3 ml) was stirred at 80° C. for 4 hours. To the reaction mixture was added water, extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. To the concentrated residue (53 mg) was added DL-methilonine (265 mg) and methanesulfonic acid (3 ml), and the mixture was stirred at 90° C. for one night. The reaction mixture was cooled and then pH of the reaction mixture was adjusted to about 9 by adding an aqueous 20% sodium hydroxide and 5% sodium hydrogen carbonate, and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified with propylaminated silica gel column chromatography to obtain the target compound (13 mg).

reactant | 3-amino-2-(2-chloro-5-methoxyphenyl)-7-hydroxy-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 75 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)O)=O)C2=C(C=CC(=C2)OC)Cl | C17H13ClN4O3
reactant | 1-(3-chloropropyl)-4-methylpiperazine dihydrochloride | 70 mg | Cl.Cl.ClCCCN1CCN(CC1)C
reactant | potassium carbonate | 112 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5 mg | [I-].[K+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-amino-2-(3-hydroxyphenyl)-7-[3-(4-methyl-1-piperazinyl)propoxy]-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 13 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)OCCCN2CCN(CC2)C)=O)C2=CC(=CC=C2)O | C24H28N6O3
